US06683201B2
In analogy to example 17.1, reaction of [4-(4-Bromo-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester with diethylamine yielded [4-(4-Diethylamino-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester, MS: 405 (MH+).

reactant | [4-(4-Bromo-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)OCCCCBr)=O | C18H19BrClNO3
reactant | diethylamine | C(C)NCC | C4H11N
product | [4-(4-Diethylamino-butoxy)-phenyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)OCCCCN(CC)CC)=O | C22H29ClN2O3
